US06235742B1
1-methyl-5-[(2-oxo-1,2-dihydro-6-quinolinyl)methyl]-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one
Concentrated sulphuric acid (10 ml) was added to N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]phenyl}-(E)-3-ethoxy-2-propenamide (980 mg, 0.00248 mol) and the reaction stirred at room temperature for 4 hours. The mixture was then poured carefully onto ice and basified with 0.880 aqueous ammonia solution. The resulting precipitate was filtered and then triturated with boiling acetic acid/water to give the title compound (460 mg), m.p.>300° C.

reactant | N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]phenyl}-(E)-3-ethoxy-2-propenamide | 0.00248 mol, 980 mg | CN1N=C(C=2N=C(NC(C21)=O)CC2=CC=C(C=C2)NC(\C=C\OCC)=O)CCC | C21H25N5O3
reactant | ammonia | N | H3N
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 1-methyl-5-[(2-oxo-1,2-dihydro-6-quinolinyl)methyl]-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | 460 mg | CN1N=C(C=2N=C(NC(C21)=O)CC=2C=C1C=CC(NC1=CC2)=O)CCC | C19H19N5O2
